* NGSPICE file created from pmos1f_flat.ext - technology: gf180mcuD

.subckt pmos1f_flat G D S B
X0 S.t0 G.t0 D.t0 B.t0 pfet_03v3 ad=0.2822p pd=2.18u as=0.2822p ps=2.18u w=0.42u l=0.28u
R0 G G.t0 24.9576
R1 D D.t0 12.0286
R2 S S.t0 12.0298
R3 B B.t0 713.689
C0 S G 0.003155f
C1 D B 0.011057f
C2 S B 0.060891f
C3 B G 0.145346f
C4 D S 0.024882f
C5 D G 0.003155f
C6 S VSUBS 0.022255f
C7 D VSUBS 0.033335f
C8 G VSUBS 0.111172f
C9 B VSUBS 0.850015f
.ends

